US04435405
6-Chloro-3-phenylquinolin-2-one (6.7 gm.) and phosphorus oxychloride (100 ml.) were heated together under reflux for 2 hr. The reaction mixture was then poured into ice water (1000 ml.) and extracted with ethyl acetate (3×100 ml.). The ethyl acetate extract was washed with water (3×50 ml.) and dried (Na2SO4), and the solvent was evaporated. The resulting solid was crystallised from ethanol to give 2,6-dichloro-3-phenylquinoline, m.p. 147°-9°.

reactant | 6-Chloro-3-phenylquinolin-2-one | 6.7 gm | ClC=1C=C2C=C(C(NC2=CC1)=O)C1=CC=CC=C1 | C15H10ClNO
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,6-dichloro-3-phenylquinoline | ClC1=NC2=CC=C(C=C2C=C1C1=CC=CC=C1)Cl | C15H9Cl2N
